US07671043B2
7C: 4-[3-(4-Isobutylphenyl)-1,2,4-oxadiazol-5-yl]benzaldehyde
A solution of {4-[3-(4-isobutylphenyl)-1,2,4-oxadiazol-5-yl]phenyl}methanol (1.30 g, 4.21 mmol) and dichloromethane (20 mL) was added to a solution of Dess-Martin periodinane (2.25 g, 5.30 mmol) and dichloromethane (20 mL) and stirred at room temperature for 2 hours. The reaction mixture was diluted with dichloromethene, washed with 1 N NaOH (2×) and brine, dried over Na2SO4, filtered and concentrated in vacuo to give the title compound (0.333 g, 26% yield) as a white solid.

reactant | {4-[3-(4-isobutylphenyl)-1,2,4-oxadiazol-5-yl]phenyl}methanol | 4.21 mmol, 1.30 g | C(C(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)CO | C19H20N2O2
reactant | Dess-Martin periodinane | 5.30 mmol, 2.25 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-[3-(4-Isobutylphenyl)-1,2,4-oxadiazol-5-yl]benzaldehyde | 0.333 g, 26% yield | C(C(C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C19H18N2O2
